US05051422
1-(4-Chloromethylphenyl)-2-methyl-1H-imidazole
To 4-(2-methyl-1H-imidazole-1-yl)benzenemethanol add thionyl chloride. Monitor the progress of the reaction by thin-layer chromatography. Upon completion remove the excess thionyl chloride in vacuo. Partition the residue between 1N NaOH and CH2Cl2. Separate and dry the organic layer. Remove the solvent in vacuo to obtain the title compound.

reactant | 4-(2-methyl-1H-imidazole-1-yl)benzenemethanol | CC=1N(C=CN1)C1=CC=C(C=C1)CO | C11H12N2O
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 1-(4-Chloromethylphenyl)-2-methyl-1H-imidazole | ClCC1=CC=C(C=C1)N1C(=NC=C1)C | C11H11ClN2
